US07550469B2
31e: Preparation of 4-[4-(6-methyl-thieno[2,3-d]isoxazol-3-yl)-piperidin-1-yl]-butyronitrile
Add potassium carbonate (17.72 mmol, 2.45 g, 2.40 equivalents), potassium iodide (0.73 mmol, 123 mg, 0.10 equivalents), and 4-bromobutyronitrile (8.86 mmol, 0.88 mL, 1.20 equivalents) to a stirred solution of 6-methyl-3-piperidin-4-yl-thieno[2,3-d]isoxazole hydrochloride (7.38 mmol, 1.91 g, 1.00 equivalents) in acetonitrile (10.84 mL) and water (3.60 mL). Stir the resulting mixture at reflux overnight. Cool to room temperature, filter the reaction mixture and wash the solid material collected with dichloromethane and evaporate the filtrate. Take the residue up in dichloromethane (45 mL), wash with sodium hydroxide (aqueous, 18 mL, 2 M), water (18 mL), saturated sodium hydroxide (aqueous, 18 mL), dry over magnesium sulfate, filter and evaporate. Purify the residue via flash column chromatography using a gradient and eluting with a mixture of n-heptane : ethyl acetate (0.5:9.5) to ethyl acetate (100%) to yield the desired product as a brown oil (663 mg). LC/MS (ESI), m/e 290 (MH+), retention time 1.19 minutes. Condition II.

reactant | potassium carbonate | 17.72 mmol, 2.45 g, 2.40 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.73 mmol, 123 mg, 0.10 equivalents | [I-].[K+]
reactant | 4-bromobutyronitrile | 8.86 mmol, 0.88 mL, 1.20 equivalents | BrCCCC#N | C4H6BrN
reactant | 6-methyl-3-piperidin-4-yl-thieno[2,3-d]isoxazole hydrochloride | 7.38 mmol, 1.91 g, 1.00 equivalents | Cl.CC1=CSC=2C(=NOC21)C2CCNCC2
solvent | acetonitrile | 10.84 mL | C(C)#N | C2H3N
solvent | water | 3.60 mL | O | H2O
product | 4-[4-(6-methyl-thieno[2,3-d]isoxazol-3-yl)-piperidin-1-yl]-butyronitrile | 663 mg | CC1=CSC=2C(=NOC21)C2CCN(CC2)CCCC#N | C15H19N3OS
